US05475139
37.6 g of 2,4,6-trimethyl phenol and 11 g of sodium hydroxide were dissolved in 30 ml of water and mixed with 150 ml of toluene. The toluene recovered from heating was mixed with 139 ml of N,N-dimethylformamide to obtain a N,N-dimethylformamide solution. 40 g of 2,6-dichlorophenol was dissolved in 130 ml of toluene, followed by the addition of 9.8 g of sodium hydroxide in 20 ml of water, 41.5 g of N-phenyl chloroacetamide and 8.7 ml of N,N-dimethylformamide, and refluxed in a oil bath at 140°-150° C. for 15 h. The toluene was recovered from the reflux, and mixed with the above N,N-dimethylformamide solution and reacted for 3 h. Recovering N,N-dimethylformamide from the reacted mixture with distillation under reduced pressure (145°-150° C., 8 mm Hg) resulted in the formation of 53 g of N-phenyl 2,6-dichloroaniline and the product yield was 90.75%.

reactant | 2,4,6-trimethyl phenol | 37.6 g | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | sodium hydroxide | 11 g | [OH-].[Na+]
reactant | 2,6-dichlorophenol | 40 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | sodium hydroxide | 9.8 g | [OH-].[Na+]
reactant | N-phenyl chloroacetamide | 41.5 g | C1(=CC=CC=C1)NC(CCl)=O | C8H8ClNO
solvent | water | 30 ml | O | H2O
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 8.7 ml | CN(C=O)C | C3H7NO
product | N-phenyl 2,6-dichloroaniline | 53 g | C1(=CC=CC=C1)NC1=C(C=CC=C1Cl)Cl | C12H9Cl2N
